US08664404B2
A 1 L four-neck flask equipped with a stirrer, a thermometer and a condenser tube was charged with 98.1 g (0.5 mol) of 7-nitro-1,2-benzisothiazol-3-one, 146.2 g (2 mol) of N,N-dimethylformamide and 500.0 g of chlorobenzene. While stirring, 119.0 g (1.0 mol) of thionyl chloride was added dropwise thereto at 80° to 90° C. over 1 hour, and the mixture was reacted at the same temperature for 3 hours. After terminating the reaction, the liquid reaction mixture was concentrated, and a crude product obtained was recrystallized from toluene to give 91.2 g (0.43 mol) of 3-chloro-7-nitro-1,2-benzisothiazole. The yield based on 7-nitro-1,2-benzisothiazol-3-one was 85%.

reactant | 7-nitro-1,2-benzisothiazol-3-one | 0.5 mol, 98.1 g | [N+](=O)([O-])C1=CC=CC=2C(NSC21)=O | C7H4N2O3S
reactant | N,N-dimethylformamide | 2 mol, 146.2 g | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 1.0 mol, 119.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | chlorobenzene | 500.0 g | ClC1=CC=CC=C1 | C6H5Cl
product | 3-chloro-7-nitro-1,2-benzisothiazole | 0.43 mol, 91.2 g | ClC1=NSC2=C1C=CC=C2[N+](=O)[O-] | C7H3ClN2O2S
